US08633182B2
Step 2: 3-(4-Bromo-3,5-dimethyl-phenoxymethyl)-azetidine
3-(4-Bromo-3,5-dimethyl-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester (3.9 g, 6.32 mmol) is dissolved in 30 mL of dichloromethane and stirred at 0° C. Trifluoroacetic acid (1.45 g, 12.64 mmol) is added and the reaction mixture is stirred at 0° C. for 6 h. 15 mL of saturated aqueous NaHCO3 is added, the organic phase is separated, dried over sodium sulfate and concentrated under vacuum to give the title compound (Yield: 1.30 g).

reactant | 3-(4-Bromo-3,5-dimethyl-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester | 6.32 mmol, 3.9 g | C(C)(C)(C)OC(=O)N1CC(C1)COC1=CC(=C(C(=C1)C)Br)C | C17H24BrNO3
reactant | Trifluoroacetic acid | 12.64 mmol, 1.45 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-(4-Bromo-3,5-dimethyl-phenoxymethyl)-azetidine | Yield: 1.30 g | BrC1=C(C=C(OCC2CNC2)C=C1C)C | C12H16BrNO
